US07825253B2
N2,N5-Bis-(2-methoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=400.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline and 2-methoxybenzylamine in step A and step B.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | N2,N5-Bis-(2-methoxy-benzyl)-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)NCC2=C(C=CC=C2)OC)C=CC=C1 | C25H25N3O2
